US05055472
7-(4'-fluorophenyl)-6-hydroxymethyl-2-methyl-5-(1'-methylethyl)pyrazolo[1,5-a]pyrimidin (Compound VI-1)
4.40 g (12.9 mmol) of ethyl 7-(4'-fluorophenyl)-2-methyl-5-(1'-methylethyl)pyrazolo[1,5-a]pyrimidin-6-ylcarboxylate was dissolved in 40 ml of dry toluene under a nitrogen atmosphere and cooled to 0° C. in an ice bath. To this solution, 33 ml of a 16 weight % diisobutylaluminium hydride-toluene solution was dropwise added, and then, the mixture was stirred at 0° C. for one hour. After confirming the complete disappearance of ethyl 7-(4'-fluorophenyl)-2-methyl-5-(1'-methylethyl)pyrazolo[1,5-a]pyrimidin-6-ylcarboxylate by thin layer chromatography, a saturated ammonium chloride aqueous solution was added thereto at 0° C. to terminate the reaction. Diethyl ether was added to the reaction mixture, and the organic layer was separated. The gelled substance was dissolved by an addition of a sodium hydroxide aqueous solution and newly extracted with ethyl ether. The ethyl ether extracts were put together and dried over anhydrous magnesium sulfate. The extract was subjected to filtration, and the solvent was distilled off and the residue was recrystallized from ethyl acetate to obtain 3.24 g (yield: 84%) of the slightly yellow desired compound.

reactant | ethyl 7-(4'-fluorophenyl)-2-methyl-5-(1'-methylethyl)pyrazolo[1,5-a]pyrimidin-6-ylcarboxylate | 12.9 mmol, 4.40 g | FC1=CC=C(C=C1)C1=C(C(=NC=2N1N=C(C2)C)C(C)C)C(=O)OCC | C19H20FN3O2
reactant | diisobutylaluminium hydride toluene | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4'-fluorophenyl)-6-hydroxymethyl-2-methyl-5-(1'-methylethyl)pyrazolo[1,5-a]pyrimidin | yield: 84% | FC1=CC=C(C=C1)C1=C(C(=NC=2N1N=C(C2)C)C(C)C)CO | C17H18FN3O
